US07157487B2
(Step 6) Synthesis of methyl (E)-5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)-2-pentenoate
Trimethyl phosphonoacetate (0.95 ml, 5.88 mmol) was dissolved in THF (40 ml). Under a nitrogen gas stream, sodium hydride (60% in oil, 235 mg, 5.88 mmol) was added in portions to the resulting solution, while stirring at 0° C. After stirring the reaction mixture at the same temperature for 10 minutes, a solution of 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionaldehyde (1.35 g, 4.90 mmol) in THF (40 ml) was added dropwise at 0° C. The reaction mixture was further stirred for 2 hours at 0° C. and poured in ice water (50 ml), followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 50 g), whereby from chloroform/acetone (10/1) eluate fractions, the title compound (1.40 g, 86%) was obtained as a colorless oil.

reactant | Trimethyl phosphonoacetate | 5.88 mmol, 0.95 ml | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | 5.88 mmol, 235 mg | [H-].[Na+]
reactant | 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionaldehyde | 4.90 mmol, 1.35 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCC=O | C13H22FNO4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | methyl (E)-5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)-2-pentenoate | 1.40 g, 86% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCC/C=C/C(=O)OC | C16H26FNO5
